US07816371B2
a. (S)-3-Hydroxy-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide
A round bottom flask was charged with 5-nitro-isochromen-1-one (2 g, 0.01 mol), methanol (40 mL, 1 mol), (S)-2-amino-3-hydroxypropanamide hydrochloride (2.2 g, 0.016 mol) and triethylamine (2.55 mL, 0.0183 mol) and stirred at 52° C. overnight. The product precipitated out and was filtered and dried to yield the pure product as a yellow solid. MS m/z=278.3 (M+H).

reactant | 5-nitro-isochromen-1-one | 0.01 mol, 2 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | methanol | 1 mol, 40 mL | CO | CH4O
reactant | (S)-2-amino-3-hydroxypropanamide hydrochloride | 0.016 mol, 2.2 g | Cl.N[C@H](C(=O)N)CO
reactant | triethylamine | 0.0183 mol, 2.55 mL | C(C)N(CC)CC | C6H15N
product | (S)-3-Hydroxy-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide | OC[C@@H](C(=O)N)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C12H11N3O5
